US08278290B2
a) Preparation of 2-(N-imidazolyl)-7-hydroxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxy-benzo[b]furan (Entry 27, Table 1)
A mixture of 2-bromo-7-acetoxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxy-benzo[b]furan (30 mg, 0.063 mmol) and imidazole(60 mg, 0.88 mmol) in a mixture of toluene:triethylamine (3 mL: 2 drops) was refluxed for 4 hours (tlc). Solvent was distilled under vacuum and the crude residue was purified by PTLC (eluent=ethyl-acetate: 1% triethylamine) to give the title compound as a yellow solid; (8 mg, 30%); 1H NMR (300 MHz, CDCl3) δ 8.24(bs, 1H), 7.52(b, 1H), 7.19(b, 1H), 7.06(s, 2H, benzoyl Hs), 6.99(d, 1H, J=8.60 Hz), 6.93(d, 1H, J=8.66 Hz), 3.96(s, 3H, OMe), 3.91(s, 3H, OMe), 3.76(s, 6H, 2×OMe).

reactant | 2-bromo-7-acetoxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxy-benzo[b]furan | 0.063 mmol, 30 mg | BrC1=C(C2=C(O1)C(=C(C=C2)OC)OC(C)=O)C(C2=CC(=C(C(=C2)OC)OC)OC)=O | C21H19BrO8
reactant | imidazole | 0.88 mmol, 60 mg | N1C=NC=C1 | C3H4N2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | triethylamine | 3 mL | C(C)N(CC)CC | C6H15N
product | 2-(N-imidazolyl)-7-hydroxy-3-(3,4,5-trimethoxybenzoyl)-6-methoxy-benzo[b]furan | N1(C=NC=C1)C1=C(C2=C(O1)C(=C(C=C2)OC)O)C(C2=CC(=C(C(=C2)OC)OC)OC)=O | C22H20N2O7
